US04599336
A mixture of 30.1 g. (0.16 mol) of 6-(1-methylethyl)quinazolin-4(3H)-one, 21.2 g. (0.18 mol) of (Z)-3-chloro-2-propenoic acid methyl ester and 33.2 g. (0.24 mol) of anhydrous potassium carbonate in 375 ml. of anhydrous acetone was stirred at reflux for 22 hr. The solvent was removed in vacuo, water was added to the solid residue and the solid was removed by filtration. Recrystallization from methanol gave 35.5 g, m.p. 142°-145°, (82% yield) of (E)-3-[6-(1-methylethyl)-4-oxo-4H-quinazolin-3-yl]-2-propenoic acid methyl ester.

reactant | 6-(1-methylethyl)quinazolin-4(3H)-one | 0.16 mol | CC(C)C=1C=C2C(NC=NC2=CC1)=O | C11H12N2O
reactant | (Z)-3-chloro-2-propenoic acid methyl ester | 0.18 mol | COC(\C=C/Cl)=O | C4H5ClO2
reactant | potassium carbonate | 0.24 mol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (E)-3-[6-(1-methylethyl)-4-oxo-4H-quinazolin-3-yl]-2-propenoic acid methyl ester | 82% yield | COC(\C=C\N1C=NC2=CC=C(C=C2C1=O)C(C)C)=O | C15H16N2O3
